US07365211B2
To a solution of 7-(2,4-dichloro-phenyl)-2-methyl-2H-indazole (0.659 g, 2.38 mmol) in 2 mL of acetic acid was added bromine (0.122 mL, 2.38 mmol) dropwise. The yellow-orange solution was stirred for 15 m, in which time an orange solid precipitated. The mixture was concentrated to a yellow solid, which was partitioned between 20 mL of a 10% aqueous NaOH solution and 20 mL of diethyl ether. The organic layer was washed with 20 mL of a saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated to a yellow-stained white solid. Column chromatography (0→10% EtOAc/hexanes) afforded 3-bromo-7-(2,4-dichloro-phenyl)-2-methyl-2H-indazole as a white solid (24: Ar=2,4-dichlorophenyl; 0.525 g; 62%; m.p. 137-139).

reactant | 7-(2,4-dichloro-phenyl)-2-methyl-2H-indazole | 2.38 mmol, 0.659 g | ClC1=C(C=CC(=C1)Cl)C1=CC=CC2=CN(N=C12)C | C14H10Cl2N2
reactant | bromine | 2.38 mmol, 0.122 mL | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-7-(2,4-dichloro-phenyl)-2-methyl-2H-indazole | BrC=1N(N=C2C(=CC=CC12)C1=C(C=C(C=C1)Cl)Cl)C | C14H9BrCl2N2
